US08445505B2
To a mixture of 2,5-dimethyl-4-nitrobenzaldehyde (75 mg, 0.42 mmol) and toluenesulfonylmethyl isocyanide (TOSMIC) (98 mg, 0.5 mmol) in methanol (2 mL), was added sodium methoxide (68 mg, 1.26 mmol). The mixture was sealed and heated at 90° C. for 15 hr. The reaction mixture was concentrated and partitioned between water and ethyl acetate. The organic layer was separated, dried over sodium sulfate and concentrated. The 5-(2,5-Dimethyl-4-nitrophenyl)oxazole obtained was used in the next step without purification.

reactant | 2,5-dimethyl-4-nitrobenzaldehyde | 0.42 mmol, 75 mg | CC1=C(C=O)C=C(C(=C1)[N+](=O)[O-])C | C9H9NO3
reactant | toluenesulfonylmethyl isocyanide | 0.5 mmol, 98 mg | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | sodium methoxide | 1.26 mmol, 68 mg | C[O-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
product | 5-(2,5-Dimethyl-4-nitrophenyl)oxazole | CC1=C(C=C(C(=C1)[N+](=O)[O-])C)C1=CN=CO1 | C11H10N2O3
